US05650533
A solution of n-butyllithium (2.5M in hexane, 40 ml) was added dropwise with stirring to a cooled solution of diisopropylamine (10.1 g) in anhydrous ether (100 ml) in an atmosphere of nitrogen, whilst maintaining the temperature below -70° C. The mixture was stirred at -78° C. for 0.5 hour and a solution of t-butyl acetate (11.6 g) in anhydrous ether (20 ml) was added dropwise, whilst maintaining the temperature below -70° C. The mixture was stirred at -78° C. for 1 hour and a solution of diethyl cyclopropane-1,1-dicarboxylate (18.6 g) in anhydrous ether (20 ml) was added dropwise whilst maintaining the temperature below -70° C. The mixture was stirred at -78° C. for 0.5 hour and the temperature was allowed to rise to room temperature. A saturated solution of ammonium chloride (150 ml) was added cautiously and the layers were separated. The organic extract was washed with water (2×50 ml) hydrochloric acid (2M, 2×50 ml) and water (2×50 ml). The solution was dried (anhydrous sodium sulphate) and filtered. The filtrate was evaporated to dryness and the residue was distilled to give t-butyl 3-(1-ethoxycarbonylcyclopropyl)-3-oxopropionate (11.66 g) as a clear oil bp 89°-90° C./0.5 mmHg.

reactant | n-butyllithium | 2.5M, 40 ml | C(CCC)[Li]
reactant | diisopropylamine | 10.1 g | C(C)(C)NC(C)C | C6H15N
reactant | t-butyl acetate | 11.6 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | diethyl cyclopropane-1,1-dicarboxylate | 18.6 g | C1(CC1)(C(=O)OCC)C(=O)OCC | C9H14O4
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | t-butyl 3-(1-ethoxycarbonylcyclopropyl)-3-oxopropionate | 11.66 g | C(C)OC(=O)C1(CC1)C(CC(=O)OC(C)(C)C)=O | C13H20O5
